US04594199
3-[Hydroxy-(4-phenylbutyl)phosphinyl]propiononitrile
To a solution of 4-phenylbutyl phosphonous acid (0.44 g, 0.0022 mole) in chloroform (15 ml) was added triethylamine (0.68 ml), trimethyl silylchloride (0.61 ml) and acrylonitrile (0.17 ml) and the reaction mixture was stirred at room temperature for 18 hours; the mixture was poured into crushed ice (15 gm) containing 10 ml 10% HCl acid. It was shaken in a separatory funnel; a chloroform layer was evaporated, and the aqueous layer extracted once with 20 ml chloroform. The combined organic phase was washed with water, dried over anhydrous sodium sulphate and the organic solvent removed on a rotavap to produce the title compound as a highly crystalline solid 0.5 gm (90% yield), m.p. 80°-82° C.

reactant | 4-phenylbutyl phosphonous acid | 0.0022 mole, 0.44 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | trimethyl silylchloride | 0.61 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | acrylonitrile | 0.17 ml | C(C=C)#N | C3H3N
reactant | HCl | 10 ml | Cl | ClH
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.68 ml | C(C)N(CC)CC | C6H15N
product | 3-[Hydroxy-(4-phenylbutyl)phosphinyl]propiononitrile | OP(=O)(CCC#N)CCCCC1=CC=CC=C1 | C13H18NO2P
